US04769480
To 100 ml of ethanol, were charged 1.83 ml of ethanol containing 22.2 g of hydrochloric acid dissolved therein, 3.96 g of N-methylaminoacetaldehyde dimethylacetal, 1.0 g of 2-methoxy-3,4-methylenedioxybenzaldehyde, 0.35 g of sodium cyanoborohydride and 10 ml of ethanol, and they were stirred in an oil bath under a nitrogen stream at 70° C. for 2 hours. After the reaction was over, the reaction mixture was cooled to room temperature, made alkaline (pH 11) with 2N NaOH solution and extracted with ethyl acetate. The liquid extract was analyzed by GC and LC to show, as a product, 1.50 g of 2-methoxy-3,4-methylenedioxy-N-methylbenzylamino dimethylacetal (yield 95%) and 0.046 g of 2-methoxy-3,4-methylenedioxy benzylalcohol (yield 4.9%), while 2-methoxy-3,4-methylenedioxy benzaldehyde of the starting material not being recognized (conversion rate:100%). The selectivity to the desired 2-methoxy-3,4-methylenedioxy-N-methylbenzylamino dimethylacetal was 95%.

reactant | hydrochloric acid | Cl | ClH
reactant | N-methylaminoacetaldehyde dimethylacetal | 3.96 g | COC(CNC)OC | C5H13NO2
reactant | 2-methoxy-3,4-methylenedioxybenzaldehyde | 1.0 g | COC1=C(C=O)C=CC2=C1OCO2 | C9H8O4
reactant | sodium cyanoborohydride | 0.35 g | C(#N)[BH3-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 1.83 ml, 22.2 g | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-methoxy-3,4-methylenedioxy benzylalcohol | 0.046 g, yield 4.9% | COC1=C(CO)C=CC2=C1OCO2 | C9H10O4
